US09447046B2
Preparation 165a: 4-((tert-butyldimethylsilyl)oxy)-N-methylaniline
A solution of 4-(methylamino)phenol (5.0 g, 29 mmol), TBDMSCl (4.8 g, 32 mmol) and imidazole (9.9 g, 0.15 mol) in DCM was stirred at r.t. for 1 h. Water was added, and the mixture was extracted with EtOAc. The organic layer was dried (Na2SO4), concentrated and purified by silica gel chromatography (PE:EtOAc=10:1) to give 3.0 g (43%) of the title compound as a dark green oil. [M+H] Calc'd for C13H23NOSi, 238. Found, 238.

reactant | 4-(methylamino)phenol | 29 mmol, 5.0 g | CNC1=CC=C(C=C1)O | C7H9NO
reactant | TBDMSCl | 32 mmol, 4.8 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 0.15 mol, 9.9 g | N1C=NC=C1 | C3H4N2
reactant | Water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-((tert-butyldimethylsilyl)oxy)-N-methylaniline | 3.0 g, 43% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(NC)C=C1 | C13H23NOSi
